US04064236
2-Azaalanyl-dl-lactic acid ethyl ester (0.02 mole) is treated with liquid ammonia (50 ml) at room temperature for 16 hours. The mixture is evaporated to dryness. Chromatography on silica gel (80 gm) and elution with 15% methanol in chloroform gives 2-azaalanyl-dl-lactamide.

reactant | 2-Azaalanyl-dl-lactic acid ethyl ester | 0.02 mole | C(C)OC(C(O)(C)C(N(N)C)=O)=O | C7H14N2O4
reactant | ammonia | 50 ml | N | H3N
product | 2-azaalanyl-dl-lactamide | NN(C)C(=O)C(C(=O)N)(O)C | C5H11N3O3
